US07229973B2
reacting L-histidine with benzyl chloroformate, resulting in an Nα-carbobenzoxy-L-histidine;

reactant | L-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Nα-carbobenzoxy-L-histidine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CNC=N1)C(=O)O | C14H15N3O4
